Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Mechanical fall with minimally displaced right frontal sinus 
fracture
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ female who presents to ___ on
___ with a mild TBI. Per the patient was at ___ last
evening and had a mechanical fall when walking on side walk.
Denies LOC and husband confirms. Patient has headache right
forehead, + laceration and hematoma. CT Head revealed right
minimally displace posterior frontal wall sinus fracture,
for which Neurosurgery was consulted.
 
Past Medical History:
Osteoporosis
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Discharge exam
===============
VS: Tmax 98.2, BP 115/62, HR 82, RR 16, O2 Sat 96% RA

Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place [x]Month/Year
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  3-2mm bilaterally
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]No Tongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [x]No  Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No
+ecchymosis right forehead

Motor:
[x]Moves all extremities with ___ strength
[x]Sensation intact to light touch

Wound: Right forehead laceration
[x]Clean, dry, intact 
[x]Suture 
 
Pertinent Results:
Please see OMR for pertinent results.
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the neurosurgery team. The patient was found to 
have minimally displaced right posterior frontal sinus wall 
fracture and was admitted to the neurosurgery service. The 
patient worked with ___ who determined that discharge to rehab 
was appropriate. Active problems during this hospitalization 
include:

#facial laceration: the patient had a facial laceration that was 
repaired in the emergency department. She should followup with 
Dr. ___ or Dr ___ 
___ upon discharge in ___.

#Primary care physician: we recommend she establish care with a 
primary care physician

#disposition: The patient initially refused discharge to rehab 
at the recommendation of ___. Psychiatry was consulted to 
determine the patient's cognitive function. They recommended 
further consideration of the risks and benefits of rehab versus 
home with services. Ultimately, the patient was discharge to 
rehab with accommodations for her husband as per her wish. There 
was no need for further psychiatric evaluation once this 
discharge plan had been finalized. PLEASE NOTE THAT THE PATIENT 
SHOULD ONLY REQUIRE REHAB FOR LESS THAN 30 DAYS FOLLOWING 
DISCHARGE.

The ___ hospital course was otherwise unremarkable. There 
was no evidence of CSF leak or infection. The patient's pain was 
well-controlled with Tylenol. She remained neurologically intact 
throughout admission. At the time of discharge the patient's 
pain was well controlled with oral medications and the patient 
was voiding/moving bowels spontaneously. The patient will follow 
up with Dr. ___ ___ ___ Surgery for suture removal 
on ___. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course 
including reasons to call the office or return to the hospital, 
and all questions were answered. The patient was also given 
written instructions concerning precautionary instructions and 
the appropriate follow-up care. The patient expressed readiness 
for discharge to rehab.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q8H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*60 Capsule Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Minimally displaced right posterior frontal sinus wall fracture

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please call Dr. ___ office at ___ if you begin 
to experience headaches, clear, watery drainage from your nose, 
bloody nose, salty or metallic taste in your mouth, facial pain, 
or any other concerning symptoms

Please follow up with Dr. ___ ___ ___ Surgery for 
Suture removal on ___ at 2 ___.

Division of Plastic and Reconstructive Surgery 
 Department of Surgery 
 ___ 
 ___ Medical Office Building 
 ___ 
 ___ 
Phone: ___ 
 
Followup Instructions:
___